US05100654
4-Hydroxy-3-Chloromethylbenzaldehyde (1)
Through a well-stirred suspension of 0.1 mole 4-hydroxybenzaldehyde, 88ml concentrated HCl and 8.8ml 37% aqueous formaldehyde was bubbled HCl gas for approximately 4 hours. A product had fallen out of solution. The reaction mixture was refrigerated for 1.5 hours and then the product was isolated on a scintered-glass funnel and washed with a total of 1 liter cold water. mp 123°-124° C.

reactant | 4-hydroxybenzaldehyde | 0.1 mole | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | HCl | 88ml | Cl | ClH
reactant | formaldehyde | 8.8ml | C=O | CH2O
product | 4-Hydroxy-3-Chloromethylbenzaldehyde | OC1=C(C=C(C=O)C=C1)CCl | C8H7ClO2
